US04277621
502 g (1.98 mols) of 3-methyl-12-phenyl-1-aza-1,5,9-cyclododecatriene are added dropwise in the course of 1.5 hours to 220 g of 37% hydrochloricacid at a rate such that the temperature does not rise above 80° C. The mixture is then cooled to room temperature (20°-25° C.) and 140 g (2.02 mols) of hydroxylamine hydrochloride are added. About 185 g (4.6 mols) of solid sodium hydroxide are added in the course of one hour, the mixture being cooled with a waterbath, until the pH of the aqueous solution is 10-11. The organic phase which separates out is separated off and washed with water until neutral. 567 g (1.98 mols) of 2-methyl-11-phenyl-11-amino-undeca-4,8-dienal oxime are obtained in the form of a highly viscous liquid; yield 100% of theory.

reactant | 3-methyl-12-phenyl-1-aza-1,5,9-cyclododecatriene | 1.98 mols, 502 g | CC1C=NC(CC=CCCC=CC1)C1=CC=CC=C1 | C18H23N
reactant | hydrochloricacid | Cl | ClH
reactant | hydroxylamine hydrochloride | 2.02 mols, 140 g | Cl.NO
reactant | sodium hydroxide | [OH-].[Na+]
product | 2-methyl-11-phenyl-11-amino-undeca-4,8-dienal oxime | 1.98 mols, 567 g, yield 100% | CC(C=NO)CC=CCCC=CCC(N)C1=CC=CC=C1 | C18H26N2O
